US07071201B2
Example 47: Synthesis of 1-{1-[2-(4-chlorophenylsulfonylamino)ethyl]piperidin-4-yl}indoline
1-[1-(2-Aminoethyl)piperidin-4-yl]indoline (113 mg) was dissolved in chloroform (3 ml). Under ice cooling, 4-chlorobenzenesulfonyl chloride (97 mg) was added thereto and the resultant mixture was stirred for 6 hr. After adding water, the reaction solution was extracted with chloroform. The organic layer was washed with brine and dried over magnesium sulfate. After evaporating the solvent, the resulting residue (205 mg) was purified by NH-silica gel column chromatography (methanol/methylene chloride system) to give the title compound (134 mg) as an oil.

reactant | 1-[1-(2-Aminoethyl)piperidin-4-yl]indoline | 113 mg | NCCN1CCC(CC1)N1CCC2=CC=CC=C12 | C15H23N3
reactant | 4-chlorobenzenesulfonyl chloride | 97 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | water | O | H2O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-{1-[2-(4-chlorophenylsulfonylamino)ethyl]piperidin-4-yl}indoline | 134 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCCN1CCC(CC1)N1CCC2=CC=CC=C12 | C21H26ClN3O2S
